US08710043B2
Step 3. 1-(2-(tert-Butoxy)-2-oxoethyl)-6-oxo-1,6-dihydropyridine-3-carboxylic Acid
A solution of benzyl 1-(2-(tert-butoxy)-2-oxoethyl)-6-oxo-1,6-dihydropyridine-3-carboxylate (924 mg, 2.69 mmol) in EtOAc (20 mL) and EtOH (5 mL) was treated with palladium 10 wt. % on activated carbon (143 mg, 0.135 mmol) under nitrogen. The reaction vessel was purged through 3 vacuum-hydrogen cycles, and was stirred under a hydrogen balloon at 23° C. After 45 min, the reaction was filtered through Celite® brand filter agent, the filter cake washed with MeOH (100 mL), the filtrates were combined and concentrated, affording the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.02-13.68 (br. s., 1H), 8.49 (br. s., 1H), 7.83 (d, J=9.39 Hz, 1H), 6.44 (d, J=9.19 Hz, 1H), 4.68 (br. s., 2H), 1.41 (s, 9H). MS (ESI, positive ion) m/z: 276.0 (M+H).

reactant | benzyl 1-(2-(tert-butoxy)-2-oxoethyl)-6-oxo-1,6-dihydropyridine-3-carboxylate | 2.69 mmol, 924 mg | C(C)(C)(C)OC(CN1C=C(C=CC1=O)C(=O)OCC1=CC=CC=C1)=O | C19H21NO5
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | palladium | [Pd] | Pd
product | 1-(2-(tert-Butoxy)-2-oxoethyl)-6-oxo-1,6-dihydropyridine-3-carboxylic Acid | C(C)(C)(C)OC(CN1C=C(C=CC1=O)C(=O)O)=O | C12H15NO5
